US06423869B1
diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate
To a solution of (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionic acid hydrochloride (1.84 g) in methanol (40 ml) was added a solution of diphenyldiazomethane (1.45 g) in methanol (20 ml) and the mixture was stirred at room temperature for 4 hours. After addition of acetic acid (0.1 ml), the reaction mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium hydrogencarbonate solution and saturated brine respectively and the ethyl acetate solution was dried over anhydrous sodium sulfate. Removal of the organic solvent gave a residue, which was purified by silica gel column chromatography. Elution with ethyl acetate-methnaol (2:1) provided the title compound (2.05 g).

reactant | (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionic acid hydrochloride | 1.84 g | Cl.O[C@H](C(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O
reactant | diphenyldiazomethane | 1.45 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate | 2.05 g | O[C@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | C34H43N3O8
